US08859602B2
b) 1-Acetyl-4-(4-nitro-phenyl)-piperidine-4-carbonitrile
A solution of 4-(4-nitro-phenyl)-piperidine-4-carbonitrile (as prepared in the previous step) in CH2Cl2 is treated with CH3COCl and DIEA. The mixture is washed with water, and the organic layer is dried (MgSO4) and concentrated in vacuo. The residue is purified by silica gel chromatography with the appropriate solvent to afford the title compound.

reactant | 4-(4-nitro-phenyl)-piperidine-4-carbonitrile | [N+](=O)([O-])C1=CC=C(C=C1)C1(CCNCC1)C#N | C12H13N3O2
reactant | CH3COCl | CC(=O)Cl | C2H3ClO
reactant | DIEA | CCN(C(C)C)C(C)C | C8H19N
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 1-Acetyl-4-(4-nitro-phenyl)-piperidine-4-carbonitrile | C(C)(=O)N1CCC(CC1)(C#N)C1=CC=C(C=C1)[N+](=O)[O-] | C14H15N3O3
